* Created by KLayout
*** My special header ***

* cell tr_1um_Kosen01
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_Kosen01 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $4 r0 *1 -426.8,482
X$4 \$21 P2 P3 P4 P15 P13 P14 P1 VSS 1bit_cpu_SASAKI
* cell instance $5 r0 *1 -409.8,268.3
X$5 P5 P6 P12 P11 VSS unovlp
* cell instance $7 r0 *1 -14.6,-768.3
X$7 P9 P7 P10 VSS INVERTER
.ENDS tr_1um_Kosen01

* cell unovlp
* pin VDD
* pin CK
* pin PhiB
* pin PhiA
* pin GND
.SUBCKT unovlp VDD CK PhiB PhiA GND
* cell instance $1 m90 *1 877,-73.8
X$1 \$7 \$14 VDD GND BUF_X4$1
* cell instance $2 m90 *1 844,-73.8
X$2 \$23 \$14 VDD GND BUF_X16$1
* cell instance $3 m90 *1 657,-73.8
X$3 PhiA \$23 VDD GND BUF_X16$1
* cell instance $4 m90 *1 750.5,-73.8
X$4 PhiA \$23 VDD GND BUF_X16$1
* cell instance $5 r180 *1 844,-76.4
X$5 \$22 \$19 VDD GND BUF_X16$1
* cell instance $6 r180 *1 750.5,-76.4
X$6 PhiB \$22 VDD GND BUF_X16$1
* cell instance $7 r180 *1 657,-76.4
X$7 PhiB \$22 VDD GND BUF_X16$1
* cell instance $8 r180 *1 877,-76.4
X$8 \$4 \$19 VDD GND BUF_X4$1
* cell instance $9 r0 *1 627,0
X$9 \$18 \$12 VDD GND DEL4
* cell instance $10 r0 *1 522.5,0
X$10 \$12 \$13 VDD GND DEL4
* cell instance $11 r0 *1 418,0
X$11 \$13 \$15 VDD GND DEL4
* cell instance $12 r0 *1 313.5,0
X$12 \$15 \$17 VDD GND DEL4
* cell instance $13 r0 *1 0,0
X$13 \$16 CK VDD GND DEL4
* cell instance $14 r0 *1 731.5,0
X$14 \$8 \$18 VDD GND DEL4
* cell instance $15 r0 *1 836,0
X$15 VDD \$8 CK \$7 GND NOR2
* cell instance $16 r0 *1 855,0
X$16 VDD \$8 CK \$4 GND AND2_X1$1
* cell instance $17 r0 *1 209,0
X$17 \$17 \$9 VDD GND DEL4
* cell instance $18 r0 *1 104.5,0
X$18 \$9 \$16 VDD GND DEL4
.ENDS unovlp

* cell INVERTER
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT INVERTER A Q VDD VSS
* device instance $1 r0 *1 0,12 PMOS
XM$1 Q A VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 0,-12 NMOS
XM$2 Q A VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INVERTER

* cell 1bit_cpu_SASAKI
* pin VDD
* pin REG0
* pin RESET
* pin CLK
* pin PC1
* pin PROG0
* pin PROG1
* pin PC0
* pin VSS
.SUBCKT 1bit_cpu_SASAKI VDD REG0 RESET CLK PC1 PROG0 PROG1 PC0 VSS
* cell instance $1 r0 *1 0,0
X$1 CLK \$22 RESET \$I134 \$7 VDD VSS DFFR
* cell instance $2 r0 *1 207.2,0
X$2 VDD \$6 \$29 VSS INV_X1
* cell instance $3 r0 *1 239.3,0
X$3 \$7 \$10 VDD \$9 VSS NAND2
* cell instance $4 r0 *1 399.8,0
X$4 VDD \$31 \$49 \$28 VSS AND2_X1
* cell instance $5 r0 *1 544.7,0
X$5 VDD \$16 \$38 \$12 VSS AND2_X1
* cell instance $6 r0 *1 646.5,0
X$6 VDD \$10 \$11 \$47 VSS AND2_X1
* cell instance $7 r0 *1 437.4,0
X$7 VDD \$7 \$11 \$25 VSS AND2_X1
* cell instance $8 r0 *1 335.6,0
X$8 \$4 \$30 VDD \$31 VSS NAND2
* cell instance $9 r0 *1 303.5,0
X$9 \$9 \$10 VDD \$30 VSS NAND2
* cell instance $10 r0 *1 271.4,0
X$10 \$7 \$9 VDD \$4 VSS NAND2
* cell instance $11 r0 *1 512.6,0
X$11 VDD \$11 \$38 VSS INV_X1
* cell instance $12 r0 *1 614.4,0
X$12 VDD PROG0 \$11 VSS INV_X1
* cell instance $13 r0 *1 582.3,0
X$13 VDD PROG1 \$10 VSS INV_X1
* cell instance $14 r0 *1 367.7,0
X$14 VDD \$11 \$49 VSS INV_X1
* cell instance $15 r0 *1 103.6,0
X$15 CLK \$21 RESET \$16 \$6 VDD VSS DFFR
* cell instance $16 r0 *1 475,0
X$16 VDD \$28 \$25 \$22 VSS OR2
* cell instance $21 r180 *1 706.1,-2.6
X$21 \$7 \$43 VDD VSS BUF_X4
* cell instance $22 r180 *1 663.9,-2.6
X$22 REG0 \$43 VDD VSS BUF_X16
* cell instance $23 m0 *1 759.1,-2.6
X$23 PC0 \$46 VDD VSS BUF_X16
* cell instance $24 r0 *1 759.1,0
X$24 PC1 \$44 VDD VSS BUF_X16
* cell instance $25 m0 *1 716.3,-2.6
X$25 \$6 \$46 VDD VSS BUF_X4
* cell instance $26 r0 *1 716.3,0
X$26 \$29 \$44 VDD VSS BUF_X4
* cell instance $27 r0 *1 684.1,0
X$27 VDD \$12 \$47 \$21 VSS OR2
.ENDS 1bit_cpu_SASAKI

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell BUF_X16$1
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT BUF_X16$1 Y A vdd gnd
* device instance $1 r0 *1 26.1,44.8 PMOS
XM$1 vdd \$4 Y vdd PMOS L=1u W=163.2u AS=258.06p AD=258.06p PS=224u PD=224u
* device instance $17 r0 *1 6.1,46.5 PMOS
XM$17 vdd A \$4 vdd PMOS L=1u W=27.2u AS=49.64p AD=49.64p PS=48.6u PD=48.6u
* device instance $21 r0 *1 26.1,6.8 NMOS
XM$21 gnd \$4 Y gnd NMOS L=1u W=54.4u AS=86.02p AD=86.02p PS=108.4u PD=108.4u
* device instance $37 r0 *1 6.1,6.8 NMOS
XM$37 gnd A \$4 gnd NMOS L=1u W=13.6u AS=24.82p AD=24.82p PS=31.6u PD=31.6u
.ENDS BUF_X16$1

* cell BUF_X4$1
* pin A
* pin Y
* pin vdd
* pin VSS
.SUBCKT BUF_X4$1 A Y vdd VSS
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$3 vdd PMOS L=1u W=20.4u AS=43.86p AD=30.6p PS=39.2u PD=26.4u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$3 Y vdd PMOS L=1u W=40.8u AS=61.2p AD=74.46p PS=52.8u PD=65.6u
* device instance $7 r0 *1 6.1,6.8 NMOS
XM$7 VSS A \$3 VSS NMOS L=1u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $9 r0 *1 14.1,6.8 NMOS
XM$9 VSS \$3 Y VSS NMOS L=1u W=13.6u AS=20.4p AD=24.82p PS=25.6u PD=31.6u
.ENDS BUF_X4$1

* cell NOR2
* pin vdd
* pin A
* pin B
* pin Y
* pin VSS
.SUBCKT NOR2 vdd A B Y VSS
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$6 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$6 B Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 VSS A Y VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 Y B VSS VSS NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NOR2

* cell AND2_X1$1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1$1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1$1

* cell DEL4
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT DEL4 Y A vdd gnd
* device instance $1 r0 *1 88.6,44.8 PMOS
XM$1 \$8 \$7 vdd vdd PMOS L=6u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 95.1,44.8 PMOS
XM$2 vdd \$8 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 65.6,44.8 PMOS
XM$3 \$6 \$5 vdd vdd PMOS L=8u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $4 r0 *1 75.6,44.8 PMOS
XM$4 vdd \$6 \$7 vdd PMOS L=6u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $5 r0 *1 33.6,44.8 PMOS
XM$5 \$4 \$3 vdd vdd PMOS L=12u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $6 r0 *1 48.6,44.8 PMOS
XM$6 vdd \$4 \$5 vdd PMOS L=12u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $7 r0 *1 7.6,44.8 PMOS
XM$7 \$2 A vdd vdd PMOS L=4u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $8 r0 *1 16.6,44.8 PMOS
XM$8 vdd \$2 \$3 vdd PMOS L=8u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 88.6,6.8 NMOS
XM$9 \$8 \$7 gnd gnd NMOS L=6u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 r0 *1 95.1,6.8 NMOS
XM$10 gnd \$8 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $11 r0 *1 65.6,6.8 NMOS
XM$11 \$6 \$5 gnd gnd NMOS L=8u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $12 r0 *1 75.6,6.8 NMOS
XM$12 gnd \$6 \$7 gnd NMOS L=6u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $13 r0 *1 33.6,6.8 NMOS
XM$13 \$4 \$3 gnd gnd NMOS L=12u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $14 r0 *1 48.6,6.8 NMOS
XM$14 gnd \$4 \$5 gnd NMOS L=12u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $15 r0 *1 7.6,6.8 NMOS
XM$15 \$2 A gnd gnd NMOS L=4u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $16 r0 *1 16.6,6.8 NMOS
XM$16 gnd \$2 \$3 gnd NMOS L=8u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DEL4

* cell NAND2
* pin A
* pin B
* pin vdd
* pin Y
* pin gnd
.SUBCKT NAND2 A B vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A \$5 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 \$5 B Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NAND2

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 75.7,6.8 NMOS
XM$18 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $19 r0 *1 79.7,6.8 NMOS
XM$19 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $20 r0 *1 50.9,6.8 NMOS
XM$20 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $21 r0 *1 53.3,6.8 NMOS
XM$21 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 57.3,6.8 NMOS
XM$22 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $23 r0 *1 59.7,6.8 NMOS
XM$23 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $24 r0 *1 63.7,6.8 NMOS
XM$24 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $25 r0 *1 67.7,6.8 NMOS
XM$25 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 6.1,6.8 NMOS
XM$26 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 10.1,6.8 NMOS
XM$27 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell BUF_X16
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT BUF_X16 Y A vdd gnd
* device instance $1 r0 *1 26.1,44.8 PMOS
XM$1 vdd \$4 Y vdd PMOS L=1u W=163.2u AS=258.06p AD=258.06p PS=224u PD=224u
* device instance $17 r0 *1 6.1,46.5 PMOS
XM$17 vdd A \$4 vdd PMOS L=1u W=27.2u AS=49.64p AD=49.64p PS=48.6u PD=48.6u
* device instance $21 r0 *1 26.1,6.8 NMOS
XM$21 gnd \$4 Y gnd NMOS L=1u W=54.4u AS=86.02p AD=86.02p PS=108.4u PD=108.4u
* device instance $37 r0 *1 6.1,6.8 NMOS
XM$37 gnd A \$4 gnd NMOS L=1u W=13.6u AS=24.82p AD=24.82p PS=31.6u PD=31.6u
.ENDS BUF_X16

* cell BUF_X4
* pin A
* pin Y
* pin vdd
* pin VSS
.SUBCKT BUF_X4 A Y vdd VSS
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$3 vdd PMOS L=1u W=20.4u AS=43.86p AD=30.6p PS=39.2u PD=26.4u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$3 Y vdd PMOS L=1u W=40.8u AS=61.2p AD=74.46p PS=52.8u PD=65.6u
* device instance $7 r0 *1 6.1,6.8 NMOS
XM$7 VSS A \$3 VSS NMOS L=1u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $9 r0 *1 14.1,6.8 NMOS
XM$9 VSS \$3 Y VSS NMOS L=1u W=13.6u AS=20.4p AD=24.82p PS=25.6u PD=31.6u
.ENDS BUF_X4

* cell OR2
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT OR2 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$4 A \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$7 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 gnd A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS OR2

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
